US05856573
A mixed solution of 1-bromo-2-(2-tetrahydropyranyloxymethyl)benzene (2.71 g, 0.01 mol) and dry THF (8 ml) was added dropwise at 50° to 60° C. over 20 minutes to a solution prepared by adding dry THF (2 ml) and ethyl bromide (0.1 ml) to magnesium (0.36 g, 0.015 mol) in a stream of nitrogen. After completion of the addition, the mixture was stirred at 50° to 60° C. for 1 hour and cooled to room temperature. After cooling, the mixture was added dropwise to a mixed solution of oxalyl chloride (1.90 g, 0.015 mol) and dry THF (30 ml) at below -50° C. over 15 minutes. Then, the mixture was stirred at -60° to -70° C. for 40 minutes. A 40% methylamine-methanol solution (4.66 g, 0.06 mol) was added to the reaction mixture, and the mixture was stirred at -20° to -10° C. for 30 minutes. After completion of the reaction, water (150 ml) was added, and the mixture was extracted with ether (150 ml). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain N-methyl-2-oxo-2-[2-(2-tetrahydropyranyloxymethyl)phenyl]acetamide(1.18 g, Yield: 42.5%) as a colorless oil.

reactant | 1-bromo-2-(2-tetrahydropyranyloxymethyl)benzene | 0.01 mol, 2.71 g | BrC1=C(C=CC=C1)COC1OCCCC1 | C12H15BrO2
reactant | ethyl bromide | 0.1 ml | C(C)Br | C2H5Br
reactant | magnesium | 0.015 mol, 0.36 g | [Mg] | Mg
reactant | oxalyl chloride | 0.015 mol, 1.90 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine methanol | 0.06 mol, 4.66 g | CN.CO
solvent | water | 150 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | N-methyl-2-oxo-2-[2-(2-tetrahydropyranyloxymethyl)phenyl]acetamide | 1.18 g, Yield: 42.5% | CNC(C(C1=C(C=CC=C1)COC1OCCCC1)=O)=O | C15H19NO4
